US06495719B2
S-benzylthioglycolic acid (12.0 g) was dissolved in 250 mL of methanol and sparged with hydrogen chloride gas at room temperature for 20 minutes. The solvent was then removed under vacuum. Methyl S-benzylthioglycolate obtained was used in the next step without further purification.

reactant | S-benzylthioglycolic acid | 12.0 g | C(C1=CC=CC=C1)SCC(=O)O | C9H10O2S
reactant | methanol | 250 mL | CO | CH4O
product | Methyl S-benzylthioglycolate | C(C1=CC=CC=C1)SCC(=O)OC | C10H12O2S
